Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
BPH, Urinary retention, incomplete emptying
 
Major Surgical or Invasive Procedure:
GreenLight laser vaporization of the prostate.

 
History of Present Illness:
___ male with lower urinary
tract symptoms for the past ___ years;  Symptoms characterized by
increasing frequency nocturia and urgency.  He had a bladder
ultrasound done through his wife's work that revealed prostate
size approximately 50 g.  He was then seen by Dr. ___ at 
___,
who recommended that he start on terazosin.  Initially took 2 mg
but developed severe headaches and self DC'd the medication. 
Over the next year had progressive urgency and frequency.  Was
switched to tamsulosin, but then again self DC'd due to 
headache.
Then tried Finasteride for just a few days, but stopped because
of potential side effects. 

Over the past year his symptoms worsened characterized by weak
stream, frequency, suprapubic discomfort and nocturia ×5.  He
would need to stop halfway through his 4 mile run to empty his
bladder.

Drinks 2 large coffees in the morning.  Wine at night.
 
Past Medical History:
Dermatitis                                                      
Sickle cell trait
DYSPEPSIA                                              
HYPERTENSION                                                    

No Surgical History currently on file.                          

 
Social History:
___
Family History:
family history of prostate, kidney, bladder cancer.
 
Physical Exam:
WDwn male, nad, avss
abdomen soft, nt/nd
no suprapubic fullness/pain
circumcised. foley in place. gold uop (pyridium)
l/e w/o e/p/c/d. wearing Scds. 
 
Pertinent Results:
none
 
Brief Hospital Course:
Dr. ___ was admitted to Dr. ___ service 
after transurethral greenlight  photovaporization of prostate. 
No concerning intraoperative events occurred; please see 
dictated operative note for details. He patient received 
___ antibiotic prophylaxis. Patient's postoperative 
course was uncomplicated. He received intravenous antibiotics.  
His urine was clear yellow and without clots. He remained 
a-febrile throughout his hospital stay.  At discharge, the 
patient's pain well controlled with oral pain medications, 
tolerating regular diet, ambulating without assistance, and 
voiding without difficulty. He is given pyridium and oral pain 
medications on discharge. He is given explicit instructions to 
follow up in clinic and to remove his foley on POD1. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Terazosin 5 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Phenazopyridine 200 mg PO TID:PRN dysuria Duration: 3 Days 
RX *phenazopyridine [Pyridium] 200 mg ONE tablet(s) by mouth 
Q8hrs Disp #*6 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Terazosin 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
POSTOPERATIVE DIAGNOSIS:  Incomplete emptying, BPH.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger

 
Followup Instructions:
___